US09290490B2
To a flask containing 2-chloro-5-fluoro-4-methoxypyrimidine (0.32 g, 1.97 mmol) and 3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (0.40 g, 1.72 mmol) were added dioxane (17 mL) and methanesulfonic acid (0.13 mL, 1.97 mmol). The reaction was heated at 100° C. overnight. The reaction was then cooled to room temperature, diluted with ethyl acetate, washed with water, dried over magnesium sulfate, filtered and concentrated. Flash chromatography was used for purification to yield 5-fluoro-4-methoxy-N-[3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]pyrimidin-2-amine. MS ESI calc'd for C18H24BFN3O3 [M+H]+ 360. found 360. 1H NMR (500 MHz, DMSO-d6) δ 9.51 (s, 1H), 8.27 (d, J=3.2, 1H), 8.00 (s, 1H), 7.57 (s, 1H), 7.07 (s, 1H), 4.01 (s, 3H), 2.25 (s, 3H), 1.26 (s, 12H).

reactant | 2-chloro-5-fluoro-4-methoxypyrimidine | 1.97 mmol, 0.32 g | ClC1=NC=C(C(=N1)OC)F | C5H4ClFN2O
reactant | 3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 1.72 mmol, 0.40 g | CC=1C=C(N)C=C(C1)B1OC(C(O1)(C)C)(C)C | C13H20BNO2
reactant | dioxane | 17 mL | O1CCOCC1 | C4H8O2
reactant | methanesulfonic acid | 1.97 mmol, 0.13 mL | CS(=O)(=O)O | CH4O3S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-fluoro-4-methoxy-N-[3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]pyrimidin-2-amine | FC=1C(=NC(=NC1)NC1=CC(=CC(=C1)B1OC(C(O1)(C)C)(C)C)C)OC | C18H23BFN3O3
